US05246948
Synthesis of 4-[2-(3-hydroxyisoindolin-1-on-2-yl)ethylthio]pyridine
To a solution of 5.69 g (20.0 mmol) of 4-(2-phthalimidoethylthio)pyridine in 150 ml of ethanol, 2.27 g (60 mmol) of sodium borohydride was added, and the mixture was stirred at room temperature for 15 minutes. The solvent was distilled off and saturated saline was added to the residue. The mixture was extracted with chloroform and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethanol/ethyl acetate=1:10), after which subsequent recrystallization from ethyl acetate gave 3.63 g of the desired compound (63.4% yield, colorless crystals), mp. 111.5°-112.5° C.

reactant | 4-(2-phthalimidoethylthio)pyridine | 20.0 mmol, 5.69 g | C1(C=2C(C(N1CCSC1=CC=NC=C1)=O)=CC=CC2)=O | C15H12N2O2S
reactant | sodium borohydride | 60 mmol, 2.27 g | [BH4-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-[2-(3-hydroxyisoindolin-1-on-2-yl)ethylthio]pyridine | 3.63 g, 63.4% yield | OC1N(C(C2=CC=CC=C12)=O)CCSC1=CC=NC=C1 | C15H14N2O2S
